US08871756B2
N-[6-Chloro-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-yl]ethane-1,2-diamine
The title compound was prepared in analogy to Example 4-1 in Scheme 5 by using 4-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine (prepared in analogy to the one in Example 4-1) and ethane-1,2-diamine. MS obsd. (ESI+) [(M+H)+] 385, 1H NMR (400 MHz, CD3OD) δ ppm 7.901 (s, 1 H), 7.70-7.60 (m, 1 H), 7.55-7.42 (m, 2 H), 7.378-3.350 (dd, J=8.8, 2.4 Hz, 1 H), 7.28-7.16 (m, 1 H), 7.14-7.12 (m, 1 H), 6.05 (s, 1 H), 5.51 (s, 1 H), 4.97 (s, 2 H), 4.38 (s, 2 H), 3.43-3.39 (t, J=6.4 Hz, 2 H), 2.99-2.95 (m, 4 H).

reactant | 4-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine | ClC1=CC(=NC2=CC=C(C=C12)Cl)N1CCSC2=C(C1)C=CC=C2 | C18H14Cl2N2S
reactant | ethane-1,2-diamine | C(CN)N | C2H8N2
product | N-[6-Chloro-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-yl]ethane-1,2-diamine | ClC=1C=C2C(=CC(=NC2=CC1)N1CCSC2=C(C1)C=CC=C2)NCCN | C20H21ClN4S
